US06610707B1
(Z)-(2S)-N′2-(Acetyloxy)-1-[(cyclohexylmethyl)sulfonyl]-2-piperidinecarboximidamide
The title compound was prepared by a similar method to Preparation 5 from (Z)-(2S)-1-[cyclohexylmethylsulfonyl]-N′2-hydroxy-2-piperidinecarboximidamide [see Preparation 28], acetic acid, N-methyl morpholine, hydroxybenzotriazole hydrate and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, to afford (Z)-(2S)-N′2-(acetyloxy)-1-[(cyclohexylmethyl)sulfonyl]-2-piperidinecarboximidamide as a colourless oil.

reactant | (Z)-(2S)-1-[cyclohexylmethylsulfonyl]-N′2-hydroxy-2-piperidinecarboximidamide | C1(CCCCC1)CS(=O)(=O)N1[C@@H](CCCC1)/C(/N)=N/O | C13H25N3O3S
reactant | N-methyl morpholine | CN1CCOCC1 | C5H11NO
reactant | hydroxybenzotriazole hydrate | O.OC1=CC=CC=2NN=NC21
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (Z)-(2S)-N′2-(acetyloxy)-1-[(cyclohexylmethyl)sulfonyl]-2-piperidinecarboximidamide | C(C)(=O)O\N=C(/N)\[C@H]1N(CCCC1)S(=O)(=O)CC1CCCCC1 | C15H27N3O4S
